* Experiment-local parameterized QB template.
* Topology and default values mirror circuits/qb/bq_parameterized_v1.cir.

.subckt BQ IN OUT

Lin IN 1 {{QB_LIN}}

L1 2 3 {{QB_L1}}
L2 3 4 {{QB_L2}}

BJS 1 2 jjmit area={{QB_BJS_AREA}}

BJ1 2 0 jjmit area={{QB_BJ1_AREA}}
RJ1 2 0 {{QB_RJ1}}

BJ2 4 0 jjmit area={{QB_BJ2_AREA}}
RJ2 4 0 {{QB_RJ2}}

L3 4 OUT {{QB_L3}}

IB 0 3 pwl(0 0 1p {{QB_IB}})

.model jjmit jj(
+ rtype=1
+ vg=2.8mV
+ cap=0.07pF
+ r0=160
+ rN=16
+ icrit=0.1mA
+ )

.ends BQ
